US07754728B2
2-Butoxy-8-hydroxy-9-{6-(4-ethoxycarbonyl-1-piperidyl)-3-pyridylmethyl}adenine
2-Butoxy-9-(6-chloro-3-pyridylmethyl)-8-methoxyadenine (0.28 mg, 0.77 mmol) was added to 4-ethoxycarbonylpiperidine (10 ml), and the mixture was refluxed under stirring for 8 hours. After the mixture was allowed to cool, ethanol was added thereto. The resulting solid was filtered and purified by column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=80/1˜20/1) to give the captioned compound (0.15 g, 1.41 mmol, yield: 44%) as a white solid.

reactant | 2-Butoxy-9-(6-chloro-3-pyridylmethyl)-8-methoxyadenine | 0.77 mmol, 0.28 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC=1C=NC(=CC1)Cl)OC)N | C16H19ClN6O2
reactant | 4-ethoxycarbonylpiperidine | 10 ml | C(C)OC(=O)C1CCNCC1 | C8H15NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Butoxy-8-hydroxy-9-{6-(4-ethoxycarbonyl-1-piperidyl)-3-pyridylmethyl}adenine | 1.41 mmol, 0.15 g, yield: 44% | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC=1C=NC(=CC1)N1CCC(CC1)C(=O)OCC)O)N | C23H31N7O4
